US07943636B2
A solution of 1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine (3.78 g, 15.7 mmol), di-tert-butyl dicarbonate (8.6 g, 39.3 mmol), and 4-dimethylaminopyridine (DMAP) (96 mg, 0.79 mmol) in tetrahydrofuran (THF) (100 mL) was heated at reflux for 14 hours and allowed to cool to room temperature. The THF was removed under reduced pressure, and the residue was purified by chromatography using a HORIZON HPFC system (eluting with 50% ethyl acetate in hexane) followed by recrystallization from tert-butyl methyl ether/hexane. The crystals were washed with hexane and dried on the vacuum filter funnel for two hours to provide 6.46 g of di(tert-butyl) 1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate as an off-white solid.

reactant | 1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 15.7 mmol, 3.78 g | CC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C14H16N4
reactant | di-tert-butyl dicarbonate | 39.3 mmol, 8.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.79 mmol, 96 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | di(tert-butyl) 1-methyl-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 6.46 g | CC=1N(N=C2C(=NC=3C=CC=CC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C24H32N4O4
